US04845081
Equivalent amounts of theophylline and triethylamine were allowed to equilibrate with 2 equivalents of 37% aqueous H2C=O for a few minutes until a solution was obtained. Then, 2 equivalents of pyrrolidine was added and the mixture was diluted with tetrahydrofuran and allowed to stir at room temperature overnight. The solution was then concentrated in vacuo at <40°. The residue was triturated with ether and the suspension filtered. The residue from the suspension was dried to give the desired 7-(1-pyrrolidinyl)methyltheophylline in 72% yield; mp 105°-108°, lit mp 108° (J. Org. Chem. 24, 562 (1959); NMR, UV and TLC consistent with the desired product.

reactant | theophylline | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine | 2 equivalents | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-(1-pyrrolidinyl)methyltheophylline | 72% yield | N1(CCCC1)CN1C=NC=2N(C(N(C)C(C12)=O)=O)C | C12H17N5O2
